US07968563B2
A 500 mL round bottom flask was charged with 4-chloro-2-(ethoxymethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridine (10.0 g, 33.8 mmol) and dichloromethane (250 mL) under a nitrogen atmosphere. The solution was cooled to 0° C. and boron tribromide (101 mL of 1M in dichloromethane, 101 mmol) was added through an addition funnel over 30 minutes. The reaction mixture was allowed to warm to room temperature and was stirred over night. Methanol was added slowly until no more fizzing occurred, then the solvent was partially removed under reduced pressure. More methanol was added (100 mL) as well as 6N hydrochloric acid (100 mL) and the solution was heated at reflux for 1 hour. The reaction mixture was then allowed to cool to room temperature and stirred over night. The solvent was partially removed under reduced pressure until a solid precipitated, which was isolated by filtration and washed with water, then triturated with ethyl acetate and hexanes to give 6.15 g of (4-chloro-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl)methanol as an off-white solid.

reactant | 4-chloro-2-(ethoxymethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridine | 33.8 mmol, 10.0 g | ClC1=NC(=C(C2=C1N=C(N2CC(C)C)COCC)C)C | C15H22ClN3O
reactant | dichloromethane | 250 mL | ClCCl | CH2Cl2
reactant | boron tribromide | 101 mmol, 1M, 101 mL | B(Br)(Br)Br | BBr3
solvent | Methanol | CO | CH4O
product | (4-chloro-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl)methanol | 6.15 g | ClC1=NC(=C(C2=C1N=C(N2CC(C)C)CO)C)C | C13H18ClN3O
